Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin Hcl / Penicillins / Bactrim / Cephalexin / 
Nitrofurantoin / Dilantin / Tegretol / Iodine; Iodine Containing 
/ Phenobarbital
 
Attending: ___.
 
Chief Complaint:
Fever, dysuria, diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___, ___ yo F s/p renal transplant ___ w/ 2d fevers to 
104.2, loose stool, dysuria, nausea/vomiting, headache. Recent 
admission for diarrhea with discharge ealier last week. States 
symptoms initially improved but have acutely worsened upon 
admission and was having BMs every 15 minutes in ED, now less 
frequent loose stool. Does have a history of C.diff ___ yrs ago 
and ___ yrs. Also confirms recent shaking chills and dysuria x 3 
days. She admits to poor po intake and feeling very weak. In ED 
VS 99.1, 88, 124/68, 16, 97/RA. Fever 102.1 maximum in ED. Labs 
notable for ARF on CRI, leukocytosis. Was given Aztreonam per ID 
recommendations given mulitiple drug allergies. She was also 
given 2L NS, Acetaminophen 650mg and Zofran 4mg IV. Renal U/s 
was obtained and read preliminarily as normal transplant kidney 
without hydronephrosis or adjacent fluid collections. 
Appropriate vascular flow. ___ UTI's every year now, last had 
cipro and bactrim.  
.  
Upon transfer, VS 100.1, 89, 106/42, 14 and 100/RA. She confirms 
worsening diarrhea since her admission in the ED. Frequent BMs, 
Q15min. She states her symptoms for her dysuria began ___, but 
does not believe she has a kidney infection.  
.  
ROS: Positive for fevers, chills. Negative for nightsweats, 
chest pain, shortness of breath, cough, abdominal pain, melena, 
hematochezia, hematemesis. No paresthesias or weakness. 
Otherwise pertinent positives as above 

 
Past Medical History:
Past Medical History:  
1. s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and sirolimus; baseline Cr 
1.0-1.2  
2. Osteopenia ___ chronic steroid use.  
3. Osteonecrosis of feet c/b osteomyelitis  
4. CAD: NSTEMI ___, s/p cardiac cath without intervention  
5. Hyperlipidemia  
6. GERD  
7. s/p craniotomy for ICH (?intracranial aneurysm)  
8. s/p foot surgeries  
9. s/p cholecystecomy, s/p appendectomy  
10. Hx of c.diff 2 and ___ yrs ago  
11. Hx of MRSA osteo ___  
12. Cataract surgery  

 
Social History:
___
Family History:
Son with DM. 
 
Physical Exam:
Vitals: T 98.9 BP 110/60 HR 86 RR 16 O2sat 98%RA  
General: Appears fatigued, NAD  
HEENT: NCAT, sclera anicteric, conjunctiva pink, negative for  
lid lag; MMM  
Neck: supple, no LAD, trachea midline, no JVD appreciable  
Pulm: CTAB, no w/r/r, good air movt bilat  
CV: RRR, nl S1, S2, ___ soft systolic ejection murmur heard 
throughout  
Abd: soft, NTND, NABS, no organomegaly, no CVA tenderness  
Extrem: warm, well-perfused, without c/c/e  
Neuro: alert, responded appropriately to all questions, gait 
normal.  

 
Pertinent Results:
labs-

___ 08:10PM BLOOD WBC-18.5*# RBC-4.36 Hgb-11.5* Hct-34.6* 
MCV-80* MCH-26.3* MCHC-33.1 RDW-14.6 Plt ___
___ 05:40AM BLOOD WBC-6.8 RBC-3.20* Hgb-8.6* Hct-26.1* 
MCV-82 MCH-26.8* MCHC-32.9 RDW-15.4 Plt ___
___ 06:15AM BLOOD Ret Aut-1.0*
___ 08:10PM BLOOD Glucose-99 UreaN-33* Creat-1.6* Na-135 
K-4.2 Cl-97 HCO3-26 AnGap-16
___ 05:40AM BLOOD Glucose-80 UreaN-14 Creat-0.9 Na-143 
K-4.1 Cl-109* HCO3-25 AnGap-13
___ 06:00AM BLOOD LD(LDH)-176
___ 11:30AM BLOOD Calcium-7.4* Phos-2.2* Mg-1.5*
___ 05:40AM BLOOD Calcium-8.9 Phos-2.6* Mg-1.5* Iron-18*
___ 05:40AM BLOOD calTIBC-161* Ferritn-143 TRF-124*
___ 06:00AM BLOOD TSH-0.12*
___ 12:18PM BLOOD PTH-111*
___ 06:15AM BLOOD Free T4-1.6
___ 06:15AM BLOOD IgA-80
___ 06:00AM BLOOD rapmycn-2.3*
___ 06:15AM BLOOD rapmycn-2.1*
___ 05:40AM BLOOD rapmycn-2.7*
___ 06:15AM BLOOD tTG-IgA-2
___ 08:10PM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-SM
___ 08:10PM URINE ___ Bacteri-OCC Yeast-NONE 
___

___ 8:10 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 2:36 am STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 

Renal Trasnplant Ultrasound
IMPRESSION: 
Stable transplant renal ultrasound. No hydronephrosis, 
perinephric fluid 
collections, or abnormalities of the vasculature identified. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with PMHx of renal transplant in ___, 
who was admitted after having fever, chills, nausea, and 
worsened diarrhea with right costophrenic angle tenderness 
concerning pyelonephritis.  

Given constellation of symptoms, she was thought to have 
possible pyelonephritis. Also may have been related to increased 
diarrhea and there was concern for C. Diff given prior hx of 
infection. There were no symptoms consistent with URI. Given 
repeat UTIs patient was started first on Aztreonam due to her 
history of multiple antibiotic allergies. She was seen by 
urology who recommended an out pt VCUG to assess for reflux and 
has an appointment ___. Two urine cultures showed only mixed 
flora, and she had no fever so was switched to Bactrim DS for 
UTI prophylaxis before discharge. She has previously tolerated 
Bactrim.

Her stool studies were negative for infection including C. Diff. 
She was first started on Flagyl empirically, however, this was 
stopped before discharge after 3 days of treatment. Her diarrhea 
appeared to be chronic and related to antibiotic use. Her 
diarrhea resolved before discharge. GI was consulted and 
followed the patient. Her TSH was found to be low at 0.12, but 
with a normal FT4.  She may have been mildly hyperthyroid, and 
therefore her Synthroid was decreased to 112mcg from 125mcg. She 
will likely need this to be restarted as an out patient. She had 
negative tests for Celiac disease. Loperamide was used for 
diarrhea control PRN once infection was ruled out.   
 
In terms of her ARF, she had poor po intake, insensible losses 
from recent fever, and diarrhea creating a pre-renal etiology. 
Creatinine improved with IVF. Her sirolimus level was low, 
therefore her dose was increased from 1mg to 2mg.

During her admission her blood pressure medications were 
initially held due to hypovolemic state, then restarted before 
discharge.   
  
She was continued on her Ambien 10mg qpm and Clonazepam 0.5mg PO 
BID for insomnia and anxiety.  Also continued on her ranitidine 
for GERD and Mirapex for restless leg. She had several headaches 
that responded well to treatment with Fioricet.

She will have follow up with her nephrologist, urology, and her 
PCP.
  
 
 
Medications on Admission:
1. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for anxiety, insomnia.  
5. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
Daily).  
6. Oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6 
hours) as needed for pain.  
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.  
8. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. Prochlorperazine Maleate 5 mg Tablet Sig: Two (2) Tablet PO 
Q6H (every 6 hours) as needed for nausea.  
10. Sirolimus 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
12. Pramipexole 0.25 mg Tablet Sig: One (1) Tablet PO qHS ().  
13. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO qam.  
14. Acyclovir 200 mg Capsule Sig: Four (4) Capsule PO once a 
day.  
15. Zonisamide 25 mg Capsule Sig: Two (2) Capsule PO ONCE 
(Once)for 1 doses.  
16. Ranitidine HCl 300 mg Tablet Sig: One (1) Tablet PO qPM.  
17. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO 
twice a day. Tablet(s)  

 
Discharge Medications:
1. Zolpidem 5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed.  
2. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Ranitidine HCl 150 mg Tablet Sig: ___ Tablets PO take 1 in AM 
and 2 in ___: Please take 1 in AM and 2 in ___.  
4. Fioricet 50-325-40 mg Tablet Sig: One (1) Tablet PO once a 
day as needed for headache for 15 doses: do not operate 
machinery while on this medication.
Disp:*15 Tablet(s)* Refills:*0*
5. Pramipexole 0.25 mg Tablet Sig: ___ Tablets PO QHS (once a 
day (at bedtime)).  
6. Sirolimus 1 mg Tablet Sig: Two (2) Tablet PO once a day: dose 
may be adjusted by your doctor, take as instructed.
Disp:*60 Tablet(s)* Refills:*2*
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO twice a day 
as needed for anxiety.  
9. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
once a day as needed for nausea.  
11. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
12. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
13. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Percocet ___ mg Tablet Sig: One (1) Tablet PO three times 
a day as needed for pain.  
15. OxyContin 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO twice a day.  
16. Acyclovir 800 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
17. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO once a day: for UTI prevention.
Disp:*30 Tablet(s)* Refills:*2*
18. Loperamide 2 mg Capsule Sig: One (1) Capsule PO twice a day 
as needed for dirrhea.
Disp:*15 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection
Diarrhea
history of kidney transplant
Hypothyroidism

 
Discharge Condition:
hemdynamically stable, afebrile, ambulating.

 
Discharge Instructions:
You were admitted with fever, side pain, and diarrhea.  You were 
treated for a urinary tract infection but your urine culture did 
not grow a specific bacteria.  We have now started you on a 
daily antibiotic called Bactrim to take once per day.  Please 
also keep your follow up appointment with Dr. ___ urology 
to further investigate your urinary tract infections.

You were also seen by gastroenterology for your diarrhea.  We 
did not identify any infection.  Your diarrhea is likely not 
infectious, but related to antibiotics or your thyroid function. 
 Please follow up with your PCP for this problem.

We have decreased your Levothyroxine to 112mcg per day.  Please 
have your TSH checked by your PCP at follow up.

Also the dose of your rapamune was increased to 2mg from 1 mg. 
This will need to be rechecked by your nephrologist next week.

Please return to the hospital if you experience fevers/chills, 
recurrent urinary symptoms or diarrhea, abdominal pain, 
rash/swelling with your Bactrim, or any other concerning 
symptoms.
 
Followup Instructions:
___